US04806558
4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-benzonitril
A mixture of 4 g (19 millimoles) of (5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethyne, 2.8 g (12.5 millimoles) of 4-bromobenzonitrile, 50 mg of palladium (II) acetate, 100 mg of triphenylphosphine and 25 ml of degased anhydrous triethylamine was refluxed for 4 hours under nitrogen. Thereafter, solid material was filtered off and the filtrate was evaporated down.

reactant | (5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethyne | 19 millimoles, 4 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#C)C | C16H20
reactant | 4-bromobenzonitrile | 12.5 millimoles, 2.8 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | triphenylphosphine | 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium (II) acetate | 50 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
product | 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-benzonitril | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=CC=C(C#N)C=C1)C | C23H23N
